US04227000
A solution of sodium methoxide (from 0.535 g sodium) in dry methanol (40 ml) was added dropwise to a stirred suspension of 3-fluoro-2-methyl-4-nitropyridine N-oxide (2 g) in dry methanol (50 ml) and the mixture was stirred overnight. Additional sodium methoxide (from 0.053 g sodium) was added and the mixture was heated under reflux for 1 hour. The mixture was neutralised with hydrochloric acid and evaporated to dryness. The residue was extracted with chloroform and the extract was evaporated to dryness to give 3,4-dimethoxy-2-methylpyridine N-oxide.

reactant | sodium methoxide | 0.535 g | C[O-].[Na+]
reactant | 3-fluoro-2-methyl-4-nitropyridine N-oxide | 2 g | FC=1C(=[N+](C=CC1[N+](=O)[O-])[O-])C | C6H5FN2O3
reactant | sodium methoxide | 0.053 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 40 ml | CO | CH4O
reactant | methanol | 50 ml | CO | CH4O
product | 3,4-dimethoxy-2-methylpyridine N-oxide | COC=1C(=[N+](C=CC1OC)[O-])C | C8H11NO3
